US09290464B2
2.27 g of 4-benzyloxy-benzaldehydeoxime (10 mmol; 92% purity) was dissolved in 40 ml of methylenechloride (0.25 M), and 1.77 ml of propargyl alcohol (30 mmol) was then added to the resulting solution. 13.7 ml of 10% NaOCl (20 mmol) was then dropwise added very slowly to the resulting solution by using a dropping funnel at 0° C. After the addition of NaOCl was completed, the resulting mixture was stirred for about 5 hours while the temperature was slowly raised to room temperature. Subsequently, the completion of the reaction was confirmed by liquid chromatography, the resultant was subjected to distillation under reduced pressure to evaporate methylenechloride therefrom, 200 ml of water was added to the residue, and the obtained solid was then filtered. The filtered compound was washed with a large amount of water, and then washed with diethylether to obtain a solid compound. The obtained solid compound was purified with an ethylacetate/hexane solution (1:2) to obtain a white, solid [3-(4-benzyloxy-phenyl)-isoxazole-5-yl]-methanol (yield: 2.5 g).

reactant | 4-benzyloxy-benzaldehydeoxime | 10 mmol, 2.27 g | C(C1=CC=CC=C1)OC1=CC=C(C=NO)C=C1 | C14H13NO2
reactant | propargyl alcohol | 30 mmol, 1.77 ml | C(C#C)O | C3H4O
reactant | NaOCl | 20 mmol, 13.7 ml | [O-]Cl.[Na+]
solvent | methylenechloride | 0.25 M, 40 ml | C(Cl)Cl | CH2Cl2
product | [3-(4-benzyloxy-phenyl)-isoxazole-5-yl]-methanol | yield: 2.5 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=NOC(=C1)CO | C17H15NO3
